US07226923B2
7-Methylsulfanyl-2-isopropyl-4-bromo-2H-phthalazin-1-one
To a solution of 7-Mercapto-2-isopropyl-4-bromo-2H-phthalazin-1-one (0.77 g, 2.6 mmol) in tetrahydrofuran (THF) (8 ml), was added NaH (60%, 0.13 g, 3.1 mmol) portion-wise. After stirring for five minutes, methyl iodide (0.44 g, 3.1 mmol) was added dropwise and stirring was continued for four hours. The mixture was concentrated under vacuum and the residue was subjected to flash column chromatography (elution: 90% heptane, 10% ethyl acetate) to give the title compound (0.44 g, 54% yield) as a white solid.

reactant | 7-Mercapto-2-isopropyl-4-bromo-2H-phthalazin-1-one | 2.6 mmol, 0.77 g | SC1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C11H11BrN2OS
reactant | NaH | 3.1 mmol, 0.13 g | [H-].[Na+]
reactant | methyl iodide | 3.1 mmol, 0.44 g | CI | CH3I
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 7-Methylsulfanyl-2-isopropyl-4-bromo-2H-phthalazin-1-one | 0.44 g, 54% yield | CSC1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C12H13BrN2OS
